US06444679B1
To a solution of 2-[4-(3-Methoxy-phenyl)-1-(2-methyl-pentyl)-piperidin-4-yl]-pyrimidine-5-carboxylic acid methyl ester (120 mg, 0.292 mmol) in THF (6 mL) at 0° C. was added ethyl magnesium bromide in t-butylmethyl ether (1 M, 3 mL). The reaction mixture was stirred at room temperature for 18 hours. The reaction was quenched by slow addition of water (5 mL). The aqueous layer was washed with CH2Cl2 (3×10 mL) and the organic extracts were dried (Na2SO4) and concentrated. Purification by flash chromatography with hexanes/EtOAc (3:1) yielded 28 mg of 3-{2-[4-(3-Methoxy-phenyl)-1-(2-methyl-pentyl)-piperidin-4-yl]-pyrimidin-5-yl}-pentan-3-ol. 1HNMR (400 MHz, CDCl3) δ 8.68 (s, 2H), 7.15 (t, 1H), 6.96-4.92 (comp, 2H), 6.67-6.64 (m, 1H), 3.73 (s, 3H), 2.94-2.90 (comp, 2H), 2.79-2.69 (comp, 2H), 2.35-2.28 (comp, 2H), 2.07-1.91 (comp, 3H), 1.81 (q, 2H), 1.62-1.59 (comp, 2H), 1.39-1.18 (comp, 4H), 0.89-0.82 (comp, 6H), 0.77 (t, 6H); MS (M+1) 440.3.

reactant | 2-[4-(3-Methoxy-phenyl)-1-(2-methyl-pentyl)-piperidin-4-yl]-pyrimidine-5-carboxylic acid methyl ester | 0.292 mmol, 120 mg | COC(=O)C=1C=NC(=NC1)C1(CCN(CC1)CC(CCC)C)C1=CC(=CC=C1)OC | C24H33N3O3
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | THF | 6 mL | C1CCOC1 | C4H8O
solvent | t-butylmethyl ether | 1 M, 3 mL | C(C)(C)(C)OC | C5H12O
product | 3-{2-[4-(3-Methoxy-phenyl)-1-(2-methyl-pentyl)-piperidin-4-yl]-pyrimidin-5-yl}-pentan-3-ol | 28 mg | COC=1C=C(C=CC1)C1(CCN(CC1)CC(CCC)C)C1=NC=C(C=N1)C(CC)(CC)O | C27H41N3O2
